US07008949B2
Step 7: Preparation of 2-{2-diethylamino-5-[(4-fluorobenzenesulfonyl) methylamino]pyrimidin-4-ylamino}-3-(4-dimethylcarbamoyloxyphenyl) propionic acid hydrochloride.
A formic acid (500 mL) solution of 2-{2-diethylamino-5-[(4-fluorobenzenesulfonyl) methylamino]-pyrimidin-4-ylamino}-3-(4-dimethylcarbamoyloxyphenyl) propionic acid t-butyl ester (28.69 g, 0.044 mol) was heated to 70° C. for 2 h, and then concentrated in vacuo. The residue was dissolved again in formic acid (500 mL), and then heated again at 70° C. for 2 h, and then concentrated again in vacuo. The residue was dissolved again in formic acid (500 mL), and then heated again at 70° C. for 1 h. The solution was reduced in volume by 90%, and then treated with 1.0 M HCl (44 mL, 0.044 mol) and distilled water (490 mL). The resulting homogeneous solution was concentrated in vacuo, and then distilled water (100 mL) was added, and the homogenous solution was lyophilized over 14 days to yield 26.76 g (96%) the title compound, as a white solid.

reactant | 2-{2-diethylamino-5-[(4-fluorobenzenesulfonyl) methylamino]-pyrimidin-4-ylamino}-3-(4-dimethylcarbamoyloxyphenyl) propionic acid t-butyl ester | 0.044 mol, 28.69 g | C(C)(C)(C)OC(C(CC1=CC=C(C=C1)OC(N(C)C)=O)NC1=NC(=NC=C1NCS(=O)(=O)C1=CC=C(C=C1)F)N(CC)CC)=O | C31H41FN6O6S
reactant | HCl | 0.044 mol, 1.0 M, 44 mL | Cl | ClH
solvent | formic acid | 500 mL | C(=O)O | CH2O2
product | 2-{2-diethylamino-5-[(4-fluorobenzenesulfonyl) methylamino]pyrimidin-4-ylamino}-3-(4-dimethylcarbamoyloxyphenyl) propionic acid hydrochloride | 26.76 g, 96% | Cl.C(C)N(C1=NC=C(C(=N1)NC(C(=O)O)CC1=CC=C(C=C1)OC(N(C)C)=O)NCS(=O)(=O)C1=CC=C(C=C1)F)CC | InChI=1S/C27H33FN6O6S.ClH/c1-5-34(6-2)26-29-16-23(30-17-41(38,39)21-13-9-19(28)10-14-21)24(32-26)31-22(25(35)36)15-18-7-11-20(12-8-18)40-27(37)33(3)4;/h7-14,16,22,30H,5-6,15,17H2,1-4H3,(H,35,36)(H,29,31,32);1H
